US07105682B2
N-(3-Amino-4-tert-butyl-phenyl)-2-(1H-indazol-6-ylamino)-nicotinamide
The title compound was prepared from N-(4-tert-butyl-3-nitro-phenyl)-2-(1H-indazol-6-ylamino)-nicotinamide by dissolving in EtOH (20 ml) and adding Sn(II)Cl2 (12.58 g) and stirred at RT for 5 h and at 0 C. overnight. The mix was warmed to RT and quenched by pouring onto ice, neutralized with NaHCO3 and basified with 6N NAOH. An emulsion formed upon addition of EtOAc which was filtered through Celite and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with H2O, brine and dried over MgSO4 then purified by flash chromatography (3–5% MeOH to afford the product as a orange-yellow solid.

reactant | N-(4-tert-butyl-3-nitro-phenyl)-2-(1H-indazol-6-ylamino)-nicotinamide | C(C)(C)(C)C1=C(C=C(C=C1)NC(C1=C(N=CC=C1)NC1=CC=C2C=NNC2=C1)=O)[N+](=O)[O-] | C23H22N6O3
solvent | EtOH | 20 ml | CCO | C2H6O
product | N-(3-Amino-4-tert-butyl-phenyl)-2-(1H-indazol-6-ylamino)-nicotinamide | NC=1C=C(C=CC1C(C)(C)C)NC(C1=C(N=CC=C1)NC1=CC=C2C=NNC2=C1)=O | C23H24N6O
